US05614470
(b) α-Methoxyimino-4-nitrophenylacetic acid
5 ml (10 mmol) of a 2N aqueous solution of sodium hydroxide were added to a solution of 1.28 g (5.07 mmol) of ethyl α-methoxyimino-4-nitrophenylacetate in methanol, and the resulting mixture was stirred overnight at room temperature. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off to give 1.0 g (88% yield) of the title compound as a crude product, which was used in the following reaction without further purification.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl α-methoxyimino-4-nitrophenylacetate | 5.07 mmol, 1.28 g | CON=C(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | α-Methoxyimino-4-nitrophenylacetic acid | 1.0 g, 88% yield | CON=C(C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8N2O5
